US07208505B2
A solution of 3-bromothiophene (978 mg, 6 mmol) in 50 ml of dioxane is degassed with argon. Tetrakis-(triphenylphosphine)-palladium(0) (700 mg, 0.6 mmol) is added and the mixture is stirred for 5 minutes. 2-Methoxybenzene boronic acid (1.824 g, 12 mmol) and 12 ml of aqueous 2 N sodium carbonate are successively added and the resulting mixture is stirred for 16 hours at 85° C. The mixture is allowed to cool to room temperature then is extracted with dichloromethane (2×50 ml). The organic extracts are washed with water (2×30 ml) then dried over sodium sulfate, filtrated and evaporated. The residue is purified via flash column on silica (eluent: hexane/ethyl acetate 99:1 gradient to give 2-(thien-3-yl)anisole.

reactant | 3-bromothiophene | 6 mmol, 978 mg | BrC1=CSC=C1 | C4H3BrS
reactant | 2-Methoxybenzene boronic acid | 12 mmol, 1.824 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 2 N | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | Tetrakis-(triphenylphosphine)-palladium(0) | 0.6 mmol, 700 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(thien-3-yl)anisole | S1C=C(C=C1)C1=C(C=CC=C1)OC | C11H10OS
